US04904690
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide
[2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid (100 mg) and triethylamine (53 mg) were added to dichloromethane (2ml). After addition of diphenylphosphoryl azide (145 mg) with stirring under ice cooling, the mixture was stirred at room temperature for 1 hour. Conc. aqueous ammonia (5 ml) was added to the reaction mixture and stirring was further continued for 1 hour. Hexane (5 ml) was added and crystals deposited were filtered off. The crystals were recrystallized from dichloromethane and methanol to obtain the title compound as needles, m.p. 244°-245° C., yield 64 mg (64.6%).

reactant | [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid | 100 mg | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)O | C17H16O4
reactant | triethylamine | 53 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 145 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ammonia | 5 ml | N | H3N
solvent | Hexane | 5 ml | CCCCCC | C6H14
solvent | dichloromethane | 2ml | ClCCl | CH2Cl2
product | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetamide | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)N | C17H17NO3
